US06333414B1
Preparation of 2,5-diphenyl-4-(tert-butyl)oxazole
0.15 g of 3,3-dimethyl-2-oxo-1-phenylbutyl benzoate is dissolved in 8 ml of dimethylformamide in a reactor. 0.2 g of thiourea (5 eq.) is subsequently added and the reaction mixture is left to react at reflux (160° C.) for 15 hours.

reactant | 3,3-dimethyl-2-oxo-1-phenylbutyl benzoate | 0.15 g | C(C1=CC=CC=C1)(=O)OC(C(C(C)(C)C)=O)C1=CC=CC=C1 | C19H20O3
reactant | thiourea | 0.2 g, 5 eq. | NC(=S)N | CH4N2S
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 2,5-diphenyl-4-(tert-butyl)oxazole | C1(=CC=CC=C1)C=1OC(=C(N1)C(C)(C)C)C1=CC=CC=C1 | C19H19NO
